US07718653B2
N-(2-chloropyrimidin-4-yl)-1-(4-methoxybenzyl)-1H-indazol-4-amine (400 mg, 1.09 mmol) and 2,6-dimorpholinopyridin-4-amine (289 mg, 1.09 mmol) were reacted according to procedure of Example 1. After filtration of the solids and evaporation of the solvents, the resulting gum was dissolved in TFA (8.2 mL) and anisole (0.594 mL, 5.47 mmol) and sealed into a microwave tube. The reaction was heated to 130° C. over a period of 30 minutes in a Personal Chemistry EMRYS™ Optimizer EXP microwave synthesisor. The reaction mixture was concentrated to dryness, diluted with dichloromethane (20 ml), washed with water (20 ml), brine (20 ml), dried over magnesium sulfate and concentrated. The crude product was purified by flash chromatography on silica gel eluting with 0 to 5% methanol in dichloromethane. The solvent was evaporated to dryness. The resulting solid was triturated with diethyl ether/petroleum ether (1/1), collected by filtration and dried under vacuum to give N2-(2,6-dimorpholinopyridin-4-yl)-N4-(1H-indazol-4-yl)pyrimidine-2,4-diamine (178 mg, 34.4%) as a pale beige solid. NMR Spectrum: (DMSOd6) 3.17 (bs, 8H), 3.61 (bs, 8H), 6.47 (s, 1H), 6.59 (s, 2H), 7.22 (s, 1H), 7.27 (s, 1H), 7.79 (s, 1H), 8.12 (s, 1H), 8.21 (s, 1H), 9.16 (s, 1H), 9.46 (s, 1H), 13.06 (s, 1H); Mass spectrum: MH+ 474.

reactant | N-(2-chloropyrimidin-4-yl)-1-(4-methoxybenzyl)-1H-indazol-4-amine | 1.09 mmol, 400 mg | ClC1=NC=CC(=N1)NC=1C=2C=NN(C2C=CC1)CC1=CC=C(C=C1)OC | C19H16ClN5O
reactant | 2,6-dimorpholinopyridin-4-amine | 1.09 mmol, 289 mg | O1CCN(CC1)C1=NC(=CC(=C1)N)N1CCOCC1 | C13H20N4O2
reactant | anisole | 5.47 mmol, 0.594 mL | C1(=CC=CC=C1)OC | C7H8O
product | N2-(2,6-dimorpholinopyridin-4-yl)-N4-(1H-indazol-4-yl)pyrimidine-2,4-diamine | 178 mg, 34.4% | O1CCN(CC1)C1=NC(=CC(=C1)NC1=NC=CC(=N1)NC1=C2C=NNC2=CC=C1)N1CCOCC1 | C24H27N9O2
